US07919488B2
1(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)pyrrolidin-2-one
To a solution of [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid (164 mg, 0.53 mmol) in DMA (3 mL) at room temperature was added HOBt (78 mg, 0.58 mmol), EDCI (111 mg, 0.58 mmol), NMM (0.20 mL, 1.84 mmol) and 1-piperidin-4-ylpyrrolidin-2-one hydrochloride (150 mg, 0.73 mmol) and the mixture sonicated to a fine suspension and stirred for 64 hours at room temperature. The volatiles were removed under high vacuum and the residue partitioned between EtOAc (70 mL) and water (25 mL). The aqueous layer was removed and the organics washed with NaHCO3 (30 mL), brine (30 mL), dried over MgSO4, filtered and stripped to yield the title compound as an off-white solid, 123 mg, 51%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.51-8.54 (2 H, m), 7.64-7.69 (2 H, m), 7.25-7.35 (2 H, m), 7.11-7.21 (2 H, m), 6.53 (1 H, s), 5.11-5.28 (2 H, m), 4.37 (1 H, d, J=13.14 Hz), 3.90-4.05 (4 H, m), 3.23-3.31 (2 H, m), 3.08-3.20 (1 H, m), 2.57-2.70 (1 H, m), 2.22 (2 H, t, J=8.08 Hz), 1.84-1.95 (2 H, m), 1.40-1.73 (4 H, m); m/z (APCI+) for C26H28N5O2F 462.2 (M+H)+.

reactant | [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid | 0.53 mmol, 164 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C2=CC=NC=C2)C=C1 | C17H14FN3O2
reactant | HOBt | 0.58 mmol, 78 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.58 mmol, 111 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 1.84 mmol, 0.20 mL | CN1CCOCC1 | C5H11NO
reactant | 1-piperidin-4-ylpyrrolidin-2-one hydrochloride | 0.73 mmol, 150 mg | Cl.N1CCC(CC1)N1C(CCC1)=O
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 1(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)pyrrolidin-2-one | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N2C(CCC2)=O)C2=CC=NC=C2)C=C1 | C26H28FN5O2
